US08252826B2
9.3 [2-(4-Chloro-phenyl)-2,4,5,6,7,8-hexahydro-cycloheptapyrazol-3-yl]-cyclohexyl-acetic acid
A solution of [2-(4-chloro-phenyl)-2,4,5,6,7,8-hexahydro-cycloheptapyrazol-3-yl]-cyclohexyl-acetic acid ethyl ester (337 mg, 812 umol) in MeOH (19 ml) and 4 N aqueous NaOH (3.05 ml, 12.2 umol) was heated for 14 h under reflux conditions. The solvent was removed under reduced pressure, ice water/2 N aqueous HCl solution/iPrOAc 1/1/2 was added and the layers were separated. The aqueous layer was extracted one more time with iPrOAc. The combined extracts were washed with ice water/brine 1/1 and dried over Na2SO4. After filtration the solvent was removed under reduced pressure to give the title compound (284 mg, 734 umol; 90%) as off-white solid which was sufficiently pure to be used in the next step. MS: m/e=387.2 [M+H

reactant | [2-(4-chloro-phenyl)-2,4,5,6,7,8-hexahydro-cycloheptapyrazol-3-yl]-cyclohexyl-acetic acid ethyl ester | 812 umol, 337 mg | C(C)OC(C(C1CCCCC1)C=1N(N=C2C1CCCCC2)C2=CC=C(C=C2)Cl)=O | C24H31ClN2O2
reactant | NaOH | 12.2 umol, 4 N, 3.05 ml | [OH-].[Na+]
solvent | MeOH | 19 ml | CO | CH4O
product | [2-(4-Chloro-phenyl)-2,4,5,6,7,8-hexahydro-cycloheptapyrazol-3-yl]-cyclohexyl-acetic acid | 734 umol, 284 mg, 90% | ClC1=CC=C(C=C1)N1N=C2C(=C1C(C(=O)O)C1CCCCC1)CCCCC2 | C22H27ClN2O2
